US03963675
A solution of 25 g of 2-(2-formylethyl)-3-isopropenyl-1-methyl-cyclopent-1-ene in 1200 ml of acetone was treated at -10°C with 55 ml of Jones reagent. The resulting brown mixture was poured on to ice/sodium bicarbonate solution. Ether extraction, washing neutral with sodium bicarbonate solution, saturated sodium chloride solution and water, drying of the extract with magnesium sulphate and removal of the solvent under reduced pressure yielded 20 g (80%) of a weakly yellow oily crude product from which there were obtained by distillation 15 g of pure 2-(2-carboxyethyl)-3-isopropenyl-1-methyl-cyclopent-1-ene; boiling point 0.01 = 102°C; IRfilm : μmax = 3600-2400, 1720, 1645, 1450, 1420, 1380, 1330, 1290, 1220, 1085, 945 and 900 cm-1. The compound has a woody, spicy, weakly sweetish and somewhat musty fragrance.

reactant | 2-(2-formylethyl)-3-isopropenyl-1-methyl-cyclopent-1-ene | 25 g | C(=O)CCC1=C(CCC1C(=C)C)C | C12H18O
reactant | Jones reagent | 55 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 1200 ml | CC(=O)C | C3H6O
product | 2-(2-carboxyethyl)-3-isopropenyl-1-methyl-cyclopent-1-ene | 15 g | C(=O)(O)CCC1=C(CCC1C(=C)C)C | C12H18O2
